US05110946
Preparation of 4-chloro-3-aminosulphonyl-N-(2,3-dihydro2-methyl-1H-indol-1-yl)benzamide
Process according to claim 1, characterised in that the 1-amino-2,3-dihydro-2-methyl-1H-indole is reacted in the form of a hydrochloride or a methanesulphonate with the 4-chloro-3-sulphamoylbenzoyl chloride.

reactant | 1-amino-2,3-dihydro-2-methyl-1H-indole | NN1C(CC2=CC=CC=C12)C | C9H12N2
reactant | hydrochloride | Cl | ClH
reactant | methanesulphonate | CS(=O)(=O)[O-]
reactant | 4-chloro-3-sulphamoylbenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
product | 4-chloro-3-aminosulphonyl-N-(2,3-dihydro2-methyl-1H-indol-1-yl)benzamide | ClC1=C(C=C(C(=O)NN2C(CC3=CC=CC=C23)C)C=C1)S(=O)(=O)N | C16H16ClN3O3S
